US07741315B2
Step 8: Ethyl 3,4-bis(acetyloxy)-6-(3-chloro-4-fluorobenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate
A solution of ethyl 6-(3-chloro-4-fluorobenzyl)-4-hydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate 2-oxide (23 g, 58 mmol) in acetic anhydride (400 mL) was heated under nitrogen at 100° C. for one hour. The product mixture was concentrated under vacuum to the title bisacetate and was used in the following step without further purification.

reactant | ethyl 6-(3-chloro-4-fluorobenzyl)-4-hydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate 2-oxide | 58 mmol, 23 g | ClC=1C=C(CN2C(C3=C(C=[N+](C(=C3CC2)C(=O)OCC)[O-])O)=O)C=CC1F | C18H16ClFN2O5
solvent | acetic anhydride | 400 mL | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 3,4-bis(acetyloxy)-6-(3-chloro-4-fluorobenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate | C(C)(=O)OC=1N=C(C=2CCN(C(C2C1OC(C)=O)=O)CC1=CC(=C(C=C1)F)Cl)C(=O)OCC | C22H20ClFN2O7
